US04003927
By the procedure of Example III, Step 1, but substituting for the 2-cyclopentyl-6-methoxy-7,8-dichloro- 1-tetralone used therein an euivalent amount of 6-methoxy- 7,8-dimethyl-1-tetralone, and for the methyl iodide there used an equivalent amount of cyclopentyl bromide, then 2-cyclopentyl-6-methoxy-7,8-dimethyl-1-tetralone is obtained.

reactant | 2-cyclopentyl-6-methoxy-7,8-dichloro- 1-tetralone | C1(CCCC1)C1C(C2=C(C(=C(C=C2CC1)OC)Cl)Cl)=O | C16H18Cl2O2
reactant | 6-methoxy- 7,8-dimethyl-1-tetralone | COC=1C=C2CCCC(C2=C(C1C)C)=O | C13H16O2
reactant | methyl iodide | CI | CH3I
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
product | 2-cyclopentyl-6-methoxy-7,8-dimethyl-1-tetralone | C1(CCCC1)C1C(C2=C(C(=C(C=C2CC1)OC)C)C)=O | C18H24O2
